US05990101
3-[(allyloxycarbonylaminomethyl)carbonylamino]methyl imidazo[5,1-b]thiazole
A 5 ml portion of a dichloromethane solution containing 307 mg of N-allyloxycarbonyl glycine was cooled on ice, and 287 mg of 1-hydroxybenzotriazole and 438 mg of 1,3-dicyclohexylcarbodiimide were further added to the cooled mixture, followed by stirring under ice-cooling for 2 hours. Further, 5 ml of dichloromethane containing 3-aminomethylimidazo[5,1-b]thiazole and 10 ml of DMF were added thereto, and dichloromethane was then evaporated under reduced pressure, followed by stirring at room temperature for 1.5 hours. To the reaction solution, a saline solution was added, and extraction was then carried out three times with ethyl acetate. Afterward, the resulting organic layer was dried over anhydrous magnesium sulfate, and after the removal of the drying agent by filtration, the solvent was evaporated under reduced pressure. The resulting residue was purified by a silica gel column chromatograph to obtain 387 mg of the title compound.

reactant | N-allyloxycarbonyl glycine | 307 mg | C(C=C)OC(=O)NCC(=O)O | C6H9NO4
reactant | 1-hydroxybenzotriazole | 287 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,3-dicyclohexylcarbodiimide | 438 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-aminomethylimidazo[5,1-b]thiazole | NCC=1N2C(SC1)=CN=C2 | C6H7N3S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-[(allyloxycarbonylaminomethyl)carbonylamino]methyl imidazo[5,1-b]thiazole | 387 mg | C(C=C)OC(=O)NCC(=O)NCC=1N2C(SC1)=CN=C2 | C12H14N4O3S
